US06943180B2
A solution of N-acetyl-2-ethoxycarbonyl-3-(4-methoxyphenyl)proline ethyl ester (10 g, 27 mmol) in aqueous HBr (48%, 40 mL) and HOAc (10 mL) was heated at 120° C. under a nitrogen atmosphere overnight. The reaction mixture was concentrated in vacuo, and the residue was azeotroped with acetonitrile (2×) and Et2O/toluene (1×) to yield 3-(4-hydroxyphenyl)proline, ethyl ester hydrobromide as a mixture of diastereomers.

reactant | N-acetyl-2-ethoxycarbonyl-3-(4-methoxyphenyl)proline ethyl ester | 27 mmol, 10 g | C(C)OC(C1(N(CCC1C1=CC=C(C=C1)OC)C(C)=O)C(=O)OCC)=O | C19H25NO6
reactant | HBr | 40 mL | Br | BrH
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | 3-(4-hydroxyphenyl)proline, ethyl ester hydrobromide | Br.OC1=CC=C(C=C1)C1[C@H](NCC1)C(=O)OCC | InChI=1S/C13H17NO3.BrH/c1-2-17-13(16)12-11(7-8-14-12)9-3-5-10(15)6-4-9;/h3-6,11-12,14-15H,2,7-8H2,1H3;1H/t11?,12-;/m0./s1
